US07820683B2
To a stirred partial solution of 5-fluoro-N-1H-indazol-5-ylquinazolin-4-amine (3.35 g, 12 mmol) and 2-picolyl chloride hydrochloride (2.07 g, 12.6 mmol) in DMF (60 ml) was added portion-wise, sodium hydride (60% dispersion in mineral oil, 1.01 g, 25.2 mmol). The reaction was maintained at ambient temperature by slight cooling and stirred for 18 hours. The reaction mixture was quenched by addition of saturated aqueous ammonium chloride solution (5 ml) and evaporated under high vacuum. The residue was partitioned between 2.5M aqueous NaOH and DCM and the organic phase was dried over anhydrous Na2SO4 and evaporated. The product was purified by chromatography (5% methanol/ethyl acetate) and the crystallized by trituration with ether to give 5-fluoro-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine (1.8 g, 41%); NMR spectrum (300 MHz) 5.75 (s, 2H), 6.97 (d, 1H), 7.27 (m, 1H), 7.41 (dd, 1H), 7.54-7.75 (m, 4H), 7.84 (q, 1H), 8.12 (d, 2H), 8.50 (m, 2H), 9.23 (d, 1H); Mass spectrum MH+ 371.

reactant | 5-fluoro-N-1H-indazol-5-ylquinazolin-4-amine | 12 mmol, 3.35 g | FC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NNC2=CC1 | C15H10FN5
reactant | 2-picolyl chloride hydrochloride | 12.6 mmol, 2.07 g | Cl.N1=C(C=CC=C1)CCl
reactant | sodium hydride | 25.2 mmol, 1.01 g | [H-].[Na+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 5-fluoro-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine | 1.8 g, 41% | FC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1 | C21H15FN6
